US07968746B2
Oxidation as described in protocol B, using 98.1 mg (0.305 mmol) of 6-hydroxy-N-(2-(2-hydroxyethoxy)ethyl)-2,5,7,8-tetramethylchroman-2-carboxamide and 368 mg CAN (0.671 mmol) yielded 2-hydroxy-N-(2-(2-hydroxyethoxy)ethyl)-2-methyl-4-(2,4,5-trimethyl-3,6-dioxocyclohexa-1,4-dienyl)butanamide as a yellow oil.

reactant | 6-hydroxy-N-(2-(2-hydroxyethoxy)ethyl)-2,5,7,8-tetramethylchroman-2-carboxamide | 0.305 mmol, 98.1 mg | OC=1C(=C2CCC(OC2=C(C1C)C)(C(=O)NCCOCCO)C)C | C18H27NO5
reactant | CAN | 0.671 mmol, 368 mg | O=[N+]([O-])[O-].[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[Ce+4].[NH4+].[NH4+]
product | 2-hydroxy-N-(2-(2-hydroxyethoxy)ethyl)-2-methyl-4-(2,4,5-trimethyl-3,6-dioxocyclohexa-1,4-dienyl)butanamide | OC(C(=O)NCCOCCO)(CCC1=C(C(C(=C(C1=O)C)C)=O)C)C | C18H27NO6
